US06225306B1
(2R,11aS)-2-Hydroxy-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5,11-Dione
Isatoic anhydride (3.5 g) and trans-4-hydroxy-L-proline (2.8 g) were suspended in 60 ml of dimethyl sulfoxide and the suspension was heated with stirring at 120° C. for 2 hours. After allowing the reaction liquid to cool, the solvent was distilled off under reduced pressure and the resulting residue was washed with ethyl acetate and dried. The crude crystals were recrystallized from ethanol to give 3.9 g (yield 78.5%) of the title compound.

reactant | Isatoic anhydride | 3.5 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | trans-4-hydroxy-L-proline | 2.8 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | (2R,11aS)-2-Hydroxy-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5,11-Dione | 3.9 g, yield 78.5% | O[C@@H]1C[C@H]2C(NC3=C(C(N2C1)=O)C=CC=C3)=O | C12H12N2O3
